US09120749B2
tert-butyl (trans-4-(4-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)cyclohexyl)carbamate
Following general procedure M, tert-butyl (trans-4-(4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)cyclohexyl)carbamate (45 mg, 0.081 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (43 mg, 0.15 mmol) to afford the desired product (23 mg, 45%) as a yellow-brown solid. ESI MS m/z 636 [C33H35Cl2N5O4+H]+

reactant | tert-butyl (trans-4-(4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)cyclohexyl)carbamate | 0.081 mmol, 45 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C27H32BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.15 mmol, 43 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | tert-butyl (trans-4-(4-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)cyclohexyl)carbamate | 23 mg, 45% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NN(C1)[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)Cl)O)Cl | C33H35Cl2N5O4
